US03998874
37.0 g. of epichlorohydrin are added under a nitrogen atmosphere to 11.0 g. of catechol. After the catechol is dissolved, a solution of 0.15 g of sodium hydroxide in a few drops of water is added dropwise and the temperature is raised to 40° C. At this temperature the reaction mixture is stirred for 48 hours, after which the remaining epichlorohydrin is distilled off under reduced pressure. The resulting oil is dissolved in chloroform, washed twice with water and distilled. 19.5 g. of 1,1'-(o-phenylenedioxy)-bis-(3-chloropropan-2-ol) are obtained with a boiling point of 153°-156° C./10-2 -10-3 mm.Hg. After crystallization from diethyl ether the melting point is 64°-66° C.

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | catechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | sodium hydroxide | 0.15 g | [OH-].[Na+]
catalyst | water | a few drops | O | H2O
product | 1,1'-(o-phenylenedioxy)-bis-(3-chloropropan-2-ol) | yield of 82.3% | C1(=C(C=CC=C1)OCC(CCl)O)OCC(CCl)O | C12H16Cl2O4
